US06498165B1
2-[2-[2-Methoxyphenyl)ethylamino]-4-[benzimidazol-1-yl]pyrimidine
2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine was reacted with 2-(2-methoxyphenyl)ethylamine according to the procedure described in EXAMPLE 1, Step C to afford the title compound. Mass Spectrum (ESI): m/e 346.1 (M+1). 1H NMR (500 MHz, CDCl3): δ 8.66 (br s, 1H); 8.38 (br s, 1H); 8.22 (br s, 1H); 7.88 (d, J=6.7 Hz, 1H); 7.40 (m, 2H); 7.22 (m, 2H); 6.92 (m, 2H); 6.78 (d, J=5.4 Hz, 1H); 5.60 (br s, 1H); 3.88 (s, 3H); 3.78 (m, 2H); 3.03 (t, J=6.7 Hz, 2H).

reactant | 2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine | CS(=O)(=O)C1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C12H10N4O2S
reactant | 2-(2-methoxyphenyl)ethylamine | COC1=C(C=CC=C1)CCN | C9H13NO
product | 2-[2-[2-Methoxyphenyl)ethylamino]-4-[benzimidazol-1-yl]pyrimidine | COC1=C(C=CC=C1)CCNC1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C20H19N5O
